* Differential Pair Circuit
* Voltage Sources
V_CMIn 2 0 DC <value>
V_DD 3 0 DC <value>
* Current Source
I_SS 6 0 DC <value>
* Resistors
R_D1 3 4 <value>
? Missing component
* Transistors
M1 4 5 6 6 NMOS
M2 4 2 6 6 NMOS
* Connections
X 3 3
Y 33 33
